********************************************************
* MC33078 SPICE Macro-model
* Generic Desc: Dual Operational Amplifier
* Revision History: 1.0 (12/2023)
*
* Begin Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* Connections
*	1  = OUT1		5  = IN2_P
*	2  = IN1_N		6  = IN2_N
*	3  = IN1_P		7  = OUT2
*	4  = VEE		8  = VCC
********************************************************
.SUBCKT MC33078 1 2 3 4 5 6 7 8

X1 2 3 1 8 4 MC33078_AMP
X2 6 5 7 8 4 MC33078_AMP
.ENDS MC33078

********************************************************
* MC33079 SPICE Macro-model
* Generic Desc: Dual Operational Amplifier
* Revision History: 1.0 (12/2023)
*
* Begin Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* Connections
*	1  = OUT1		5  = IN2_P
*	2  = IN1_N		6  = IN2_N
*	3  = IN1_P		7  = OUT2
*	4  = VEE		8  = VCC
********************************************************
.SUBCKT MC33079 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16

X1  2  3  1 11 4 MC33078_AMP
X2  6  5  7 11 4 MC33078_AMP
X3  9 10  8 11 4 MC33078_AMP
X4 13 12 14 11 4 MC33078_AMP
.ENDS MC33078

********************************************************
** Standard Linear Ics Macromodels, 1993.
*
** MC33078 Dual Low-Noise Operational Amplifier
** CONNECTIONS :
* 1 INVERTING INPUT
* 2 NON-INVERTING INPUT
* 3 OUTPUT
* 4 POSITIVE POWER SUPPLY
* 5 NEGATIVE POWER SUPPLY
********************************************************
.SUBCKT MC33078_AMP 1 3 2 4 5

.PARAM
+ RE   = 1.75E+05

.MODEL MDTH D 
+   IS=1E-8 
+   KF=2.286238E-16 
+   CJO=10F

* INPUT STAGE
CIP 2 5 1.200000E-11
CIN 1 5 1.200000E-11
REP 2 0 {RE}
REN 1 0 {RE}
EIP 10 5 2 5 1
EIN 16 5 1 5 1
RIP 10 11 2.363636E+00
RIN 15 16 2.363636E+00
RIS 11 15 1.224040E+01
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0
VOFN 13 14 DC 0
IPOL 13 5 1.100000E-04
CPS 11 15 2.35E-09
DINN 17 13 MDTH 400E-12
VIN 17 5 1.000000e+00
DINR 15 18 MDTH 400E-12
VIP 4 18 1.000000E+00
FCP 4 5 VOFP 1.718182E+01
FCN 5 4 VOFN 1.718182E+01
FIBP 2 5 VOFN 4.545455E-03
FIBN 5 1 VOFP 4.545455E-03

* AMPLIFYING STAGE
FIP 5 19 VOFP 9.545455E+02
FIN 5 19 VOFN 9.545455E+02
CC 19 29 1.500000E-08
HZTP 30 29 VOFP 1.523529E+02
HZTN 5 30 VOFN 1.523529E+02
DOPM 51 22 MDTH 400E-12
DONM 21 52 MDTH 400E-12
HOPM 22 28 VOUT 5.172414E+03
VIPM 28 4 1.500000E+02
HONM 21 27 VOUT 4.054054E+03
VINM 5 27 1.500000E+02
DBIDON1 19 53 MDTH 400E-12
V1 51 53 0.68
DBIDON2 54 19 MDTH 400E-12
V2 54 52 0.68
RG11 51 5 3.04E+05
RG12 51 4 3.04E+05
RG21 52 5 0.6072E+05
RG22 52 4 0.6072E+05
E1 50 40 51 0 1 
E2 40 39 52 0 1
EDEC1 38 39 4 0 0.5
EDEC2 0 38 5 0 0.5
DOP 51 25 MDTH 400E-12
VOP 4 25 1.474575E+00
DON 24 52 MDTH 400E-12
VON 24 5 1.474575E+00
RAJUS 50 5 1E12
GCOMP 5 4 4 5 8.1566068E-04
RPM1 5 80 1E+06
RPM2 4 80 1E+06
GAVPH 5 82 50 80 3.26E-03
RAVPHGH 82 4 613
RAVPHGB 82 5 613
RAVPHDH 82 83 1000
RAVPHDB 82 84 1000
CAVPHH 4 83 0.159E-09
CAVPHB 5 84 0.159E-09
EOUT 26 23 82 5 1
VOUT 23 5 0
ROUT 26 3 4.780354E+01
COUT 3 5 1.000000E-12

.ENDS MC33078_AMP

* Source: OnSemi MC33078 Model
*
* Pin-Order: +in -in V+ V- out
*
.SUBCKT MC33078#0  1 2 3 4 5

C1   11 12 3.501E-12
C2    6  7 10.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 27.96E6
+ -30E6 30E6 30E6 -30E6
GA    6  0 11 12 565.5E-6
GCM   0  6 10 99 5.655E-9
ISS  10  4 DC 70.00E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   3 11 1.768E3
RD2   3 12 1.768E3
RO1   8  5 10
RO2   7 99 20
RP    3  4 29.03E3
RSS  10 99 2.857E6
VB    9  0 DC 0
VC    3 53 DC .9
VE   54  4 DC .4
VLIM  7  8 DC 0
VLP  91  0 DC 30
VLN   0 92 DC 30
.MODEL DX D(IS=800.0E-18)
.MODEL JX NJF(IS=150.0E-9 BETA=4.568E-3
+ VTO=-1)
.ENDS
.END
